US07504408B2
N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazolin-4-amine
This was prepared by the method described in example 13 using N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (200 mg, 0.40 mmol) and 1-methylpiperazine (198 mg, 1.98 mmol) in 2-methoxyethanol (4 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanolic ammonia in dichloromethane as eluent. There was thus obtained the title compound (154 mg, 68%) as a pale brown solid; NMR Spectrum:(DMSOd6) 1.95 (quintet, 2H), 2.14 (s, 3), 2.2-2.6 (m, 8H), 2.47 (t, 2H), 2.72 (t, 2H), 3.31 (s, 3H), 3.53 (t, 2H), 3.92 (s, 3H), 4.18 (s, 2H), 6.14 (s, 2H), 7.08 (s, 1H), 7.16 (s, 1H), 7.82 (s, 1H), 8.32 (s, 1H), 9.50 (s, 1H); Mass Spectrum: M+H+ 568/570.

reactant | N-[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.40 mmol, 200 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | 1-methylpiperazine | 1.98 mmol, 198 mg | CN1CCNCC1 | C5H12N2
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazolin-4-amine | 154 mg, 68% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C29H34ClN5O5
